Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with Familial Mediterranean 
Fever presenting with one month of intermittent fevers, 
productive cough and now nausea/vomiting/diarrhea as well as 
decreased PO intake for several days.  She was found to be 
anemic as well at PCP office today as well.  Baseline hematocrit 
about 36. 
.
She reports that this episode is consistent with her previous 
flares of FMF.  She has been taking colchicine for prophylaxis 
with recent switch to different brand (Colchris) of medication 
about ___ months ago, though this was felt to be less 
effective.  Patient notes that she had fever for a few days at 
the beginning of ___.  After this resolved, a head cold began 
which appeared to trigger her current fevers.  Current "flare" 
started about 3 weeks ago.   About 1.5 wks ago, she was told by 
her doctor to increase dosing of colchicine rapidly to try to 
break fevers, so she followed instructions and took 4 pills/hr 
x4hrs, then 2pills/2hrs x 4 doses, after which she felt 
significantly nauseated in the middle of the night.  The next 
morning, she tried to start taking the medication again, after 
which she had an episode of emesis.  She stopped taking the 
medication initially, then began taking her usual dose 0.5 tab 
at a time and tolerated it okay, did this for a few days.  She 
was able to find generic version of colchicine at a different 
pharmacy and starting taking this again for the last couple days 
at her usual dose. She was told on the day of admission to just 
stop her colchicine.
.
She does report cough, congestion, runny nose, overall bad cold 
in the last few weeks, which she feels triggered the fevers.  
Cough was initially dry and associated with a sore throat 3 wks 
ago, though cough later became productive, and decreasing in 
frequency in last couple days.  She has received her flu shot 
this year.
Sometimes flares are associated with some abdominal pain, but 
not currently.  Colds often appear to be trigger for flareups.  
She has been having nausea in the last week since taking the 
significantly increased dose of colchicine, as well as the 
emesis episode described above.  She has had diarrhea off an on 
from colchicine, but it has been persistent for the last 1.5 
weeks as well, nonbloody.
.
Patient's mother states that she has had these episodes of daily 
fever since childhood, lasting for weeks to months at a time.  
Fevers have been as high as ___, often not improved with 
tylenol, sometimes requiring ice baths to bring temp down.  
Mother states that patient does not tolerate Motrin due to 
nausea, but they often alternate tylenol and aspirin in 
adulthood.  Per mother's recollection, patient has these 
episodes since age ___, occuring every few years.  She was out of 
school for ___ months in ___ grade and ___ grade.  She also had 
similar episodes in ___ grade, ___ grade, and her senior year 
in college.  Symptoms generally included fevers and poor 
appetite, but no other localizing symptoms.  After first few 
episodes, pediatrician stated that she may have an immune system 
that reacts differently to a particular virus.  
.
In the ___ of her senior year in college, ___, she started 
having fevers again, lasting about 5 days each month, continuing 
on until the ___.  At this point, her doctor in ___ 
suspected FMF and put her on colchicine 1 tab BID, which 
miproved symptom frequency and duration.  She stopped having 
fevers every month; instead fevers were lasting only ___ days 
and occured every ___ months.  Symptoms later started worsening 
again, at which time she had genetic testing confirming Familial 
Mediterranean Fever.  Her dose of colchicine was increased 
slightly to 1 tab in morning and 1.5 tabs in evening.  
.  
In the ED, initial VS: 99.8 ___ 18 100%. 22g and 18g PIVs 
were placed, and she was given approximately 2L of NS in setting 
of sinus tachycardia.  She was also given 1g of tylenol for 
fever.  She was found to be guaiac negative. Vitals in ED prior 
to transfer to floor as follows: 101.3F 98/36 108 13 96%RA. 
.
On the floor, patient's fever broke several hours after 
receiving tylenol in the ED.  She continues to have a headache.  
States that headaches improve with temperature improvement.  No 
photophobia, neck pain.  
.  
ROS: She has intentionally lost 40 lbs in the last year.  She 
does feel she has lost a few pounds unintentionally in the last 
month due to poor po intake.  She does have severe headaches 
associated with the fevers, improved when fever comes down, 
often with tylenol. + productive cough, nausea, vomiting, 
diarrhea, as above. + congestion, rhinorrhea, as above, though 
improving.  She did report intermittent lightheadedness in the 
ED.  No blood in stools, no urinary symptoms. She denies chest 
pain or palpitatinos, shortness of breath, abdominal pain, 
swelling.  
 
Past Medical History:
Familial Mediterranean Fever
 
Social History:
___
Family History:
Family history positive for melanoma.  
No known Familial Mediterranean Fever. 
Mother's family of ___, ___ descent.  Father's 
family fully of ___ descent. 
 
Physical Exam:
VS:  98.3 (Tm 101.8)  100/50  87  20  98%RA
GENERAL: Well-appearing young woman in NAD, visibly in some 
discomfort from pain, appropriate.
HEENT: NC/AT, PERRLA, EOMI, sclerae pinkish bilaterally, MMM, OP 
clear.  
NECK: Supple, no lymphadenopathy
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored.
HEART: RRR, no MRG, nl S1-S2.
ABDOMEN: Soft/NT/ND, no rebound/guarding.
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.
SKIN: No rashes or lesions.
NEURO: Alert when awakened, Ox3, no motor or sensory deficits
 
Pertinent Results:
Pertinent labs:
=========

___ 06:30PM BLOOD WBC-8.9 RBC-3.58* Hgb-10.3* Hct-29.8* 
MCV-83 MCH-28.8 MCHC-34.7 RDW-15.1 Plt ___
___ 07:00AM BLOOD WBC-9.5 RBC-3.35* Hgb-9.6* Hct-27.6* 
MCV-83 MCH-28.6 MCHC-34.6 RDW-15.4 Plt ___
___ 06:30PM BLOOD Neuts-91.2* Lymphs-7.8* Monos-0.6* 
Eos-0.4 Baso-0.1
___ 08:01PM BLOOD ___
___ 06:30PM BLOOD Glucose-116* UreaN-8 Creat-0.5 Na-139 
K-3.3 Cl-101 HCO3-27 AnGap-14
___ 07:00AM BLOOD Glucose-102* UreaN-6 Creat-0.4 Na-139 
K-3.0* Cl-104 HCO3-26 AnGap-12
___ 06:30PM BLOOD ALT-23 AST-22 LD(LDH)-152 AlkPhos-72 
TotBili-0.2
___ 06:30PM BLOOD Albumin-3.2* Iron-14*
___ 06:30PM BLOOD calTIBC-204* Ferritn-134 TRF-157*
___ 06:43PM BLOOD Lactate-1.___ year old woman with history of Familial Mediterranean Fever 
presenting with one month of fevers, consistent with FMF flares, 
also with cough 1mo and N/V/D in the last ___ weeks. 
.
# Fevers/Headache - Consistent with previous flareups of 
Familial Mediterranean fever in terms of symptoms. Triggered by 
URI about 3 weeks ago. Though per patient this flare has lasted 
much longer than previous flares and has not responded well to 
colchicine. She has recently switched from the generic to the 
brand name form and feels this is less effective for her. One 
and a half weeks she was advised to take large doses of 
colchicine (hourly regimen followed by taper), this caused 
nausea/vomiting and diarrhea which has been improving. We spoke 
with patient's outpatient rheumatologist and discussed the 
possibility that she may a non-responder to colchicine, though 
not clear why this would occur now as she has had successful 
management in the past with colchicine. She may respond better 
to the generic form. We restarted her regular dosing of 0.6mg in 
the AM and 0.9mg in the ___. She will follow up with Dr. ___ 
___ week to discuss the possibility of initiating anakinra 
therapy which he has begun to arrange for her as an outpatient. 
Patient did have a flu shot this year and had a negative swab 1 
week ago. Her URI symptoms are slowly improving. She was 
observed in the hospital overnight and had Tmax 101.8. 
Symptomatic control was provided with IVF, Tylenol, Guaifenesin 
and Zofran.
.
# Cough - likely viral URI which has been improving. She does 
have productive cough, one episode with scant streaks of blood 
likely due to aggressive coughing. CXR was clear with no 
evidence of pneumonia. Fevers, as above, are likely due to FMF. 
She was symptomatically controlled with Guaifenesin. Flu swab 
was negative one week ago and she had flu vaccine this season.
.
# Nausea/Vomiting/Diarrhea - coincided with uptitration of 
colchicine 1.5 weeks ago and has been resolving. She had 1 bout 
of loose stool during admission and no vomiting. Zofran was 
given prn and IVF given for dehydration (mostly due to 
insensible losses from fever, as above). Restarted colchicine at 
maintenance dosing as above.
.
# Anemia - guaiac negative in ED and no signs of active bleeding 
(other than very scant amount of blood streaked in sputum, as 
above). She likely has anemia of chronic inflammation given low 
Fe/TIBC ratio, though ferritin is normal. Her MCV and RDW are 
normal, and though ___ may be contributing to mixed etiology it 
is unlikely that iron supplementation will be helpful in this 
case. Colchicine can also cause myeloid suppression and anemia 
and is dose-dependent. HCT around ___ at baseline. She should 
have this followed as an outpatient. 
 
Medications on Admission:
cochicine
zofran - recently picked up Rx
 
Discharge Medications:
1. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*0*
2. acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain, fever.  
3. guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q6H (every 6 
hours) as needed for cough.
Disp:*200 ML(s)* Refills:*0*
4. colchicine 0.6 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. colchicine 0.6 mg Tablet Sig: 1.5 Tablets PO QHS (once a day 
(at bedtime)).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Familial Mediterranean Fever flare
Anemia of chronic inflammation
  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
  
It was a pleasure taking care of you at the hospital. You were 
admitted with a flare of your Famililal Mediterranean Fever 
which has been going on for the past few weeks. We controlled 
your symptoms with Tylenol and anti-nausea medication. We spoke 
to your outpatient rheumatologist Dr. ___ restarted your 
colchicine per home dose. He will consider initiating therapy 
with a different medication called anakinra after you leave the 
hospital. It is important that you stay hydrated after leaving 
the hospital, you should drink plenty of fluids around the 
clock.
  
You have an anemia which is likely anemia of chronic 
inflammation due to your underlying FMF. Your blood counts are 
currently stable but you should have this monitored as an 
outpatient as well.
  
You should follow up with Dr. ___ in 1 week after discharge.
  
We have made the following changes to your medications:
- CONTINUE colchicine 0.6mg in AM and 0.9mg in ___
- CONTINUE tylenol as needed for fever
- TAKE zofran as needed for nausea
- TAKE guaifenesin (Mucinex) to help break up secretions in your 
lungs
 
Followup Instructions:
___